US07361677B2
(4-Benzyloxy-3-trifluoromethyl-phenyl)-methanol (CAB03047)
4-Benzyloxy-3-trifluoromethyl-benzoic acid (CAB03046, 3.555 g, 12 mmol) in THF (20 mL) was added dropwise to a suspension of lithium aluminium hydride (1.0 g, 26.3 mmol) in THF (20 mL). The mixture was stirred for another 30 minutes at room temperature and then quenched by addition of 2N NaOH (5 mL). The white preciptate was filtered off and washed with dichloromethane (100 mL), the filtrate was dried over sodium sulphate and concentrated under reduced pressure. The resulting oil was crystallised from diethyl ether/hexane. Yield: 3.31 g (98%). 1H-NMR (400 MHz, CDCl3) δ=1.72 (t, J=5.9 Hz, 1H, —OH), 4.66 (d, J=5.9 Hz, 2H, —CH2OH), 5.21 (s, 2H, —CH2Ph), 7.02 (d, J=8.2 Hz, 1H), 7.30-7.48 (m, 6H), 7.61 (d, J=2.3 Hz, 1H). LRMS (FAB+): 91.1 (100), 265.2 (45), 282.2 (40, [M+H]+).

reactant | 4-Benzyloxy-3-trifluoromethyl-benzoic acid | 12 mmol, 3.555 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C15H11F3O3
reactant | lithium aluminium hydride | 26.3 mmol, 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (4-Benzyloxy-3-trifluoromethyl-phenyl)-methanol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CO)C(F)(F)F | C15H13F3O2
